US08314088B2
(6S)-8-benzyl-6-methyl-3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine
A suspension of (6S)-8-benzyl-3-chloro-6-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine (301 mg), morpholine (0.11 mL), Pd2(dba)3 (19 mg), XPhos (40 mg) and sodium tert-butoxide (250 mg) in toluene (5 mL) was stirred under an argon atmosphere with heating at 100° C. for 2 hr. Water was added to the reaction mixture, the aqueous layer was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (solvent gradient: 9→50% ethyl acetate/hexane) to give the title compound (70 mg, 20%) as a colorless oil.

reactant | (6S)-8-benzyl-3-chloro-6-methyl-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 301 mg | C(C1=CC=CC=C1)N1C[C@@H](OC2=C(C1)N=CC(=N2)Cl)C | C15H16ClN3O
reactant | morpholine | 0.11 mL | N1CCOCC1 | C4H9NO
reactant | XPhos | 40 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | sodium tert-butoxide | 250 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 19 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
product | (6S)-8-benzyl-6-methyl-3-(morpholin-4-yl)-6,7,8,9-tetrahydropyrazino[2,3-f][1,4]oxazepine | 70 mg, 20% | C(C1=CC=CC=C1)N1C[C@@H](OC2=C(C1)N=CC(=N2)N2CCOCC2)C | C19H24N4O2
